US05843983
8(a) 5-Fluoro-2-hydroxybenzyl alcohol
1.98 g of lithium aluminum hydride were added to 50 ml of tetrahydrofuran, and a solution of 5.44 g of 5-fluorosalicylic acid in 50 ml of tetrahydrofuran was then added dropwise at room temperature to the resulting solution. The resulting mixture was then heated under reflux for 1 hour. At the end of this time, it was cooled, and sodium sulfate decahydrate was added in order to decompose any excess hydride. Insoluble substances were removed by filtration. The filtrate was concentrated by evaporation under reduced pressure, and purified by silica gel column chromatography, using a 2:1 by volume mixture of hexane and ethyl acetate as the eluent, to give 4.72 g (yield 95%) of the title compound as a solid substance.

reactant | lithium aluminum hydride | 1.98 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 5-fluorosalicylic acid | 5.44 g | FC1=CC=C(C(C(=O)O)=C1)O | C7H5FO3
reactant | sodium sulfate decahydrate | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | hydride | [H-]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 5-Fluoro-2-hydroxybenzyl alcohol | 4.72 g, yield 95% | FC=1C=CC(=C(CO)C1)O | C7H7FO2
